Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Percocet / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Crohn's 
 
Major Surgical or Invasive Procedure:
Extensive lysis of adhesions and ileocolectomy.
Exloratory Laparotomy

 
Past Medical History:
PMH: HTN, CAD, Crohn's Disease, ruptured appendicitis  
 PSH: ex-lap/ileocecectomy ___, cholecystectomy, SBR ___ 
enterotomy, R  
 TKR, VHR with mesh, open appendectomy  

 
Physical Exam:
General: doing well, tolerating a regular diet
VSS
Neuro: A&OX3
Cardio/Pulm: no chest pain, no shortness of breath
Abd: minimal abdominal pain, no abdominal distension
___: no lower extremity edema
 
Pertinent Results:
___ 07:09AM BLOOD WBC-7.8 RBC-3.21* Hgb-9.8* Hct-29.4* 
MCV-92 MCH-30.5 MCHC-33.3 RDW-12.8 RDWSD-42.4 Plt ___
___ 06:40AM BLOOD WBC-8.4 RBC-3.19* Hgb-9.8* Hct-29.0* 
MCV-91 MCH-30.7 MCHC-33.8 RDW-12.6 RDWSD-42.0 Plt ___
___ 06:40AM BLOOD WBC-7.3 RBC-3.26* Hgb-9.9* Hct-30.0* 
MCV-92 MCH-30.4 MCHC-33.0 RDW-12.6 RDWSD-42.5 Plt ___
___ 06:50AM BLOOD WBC-5.9 RBC-3.22* Hgb-9.9* Hct-29.6* 
MCV-92 MCH-30.7 MCHC-33.4 RDW-13.2 RDWSD-44.0 Plt ___
___ 01:29AM BLOOD WBC-4.2 RBC-3.22* Hgb-9.9* Hct-29.0* 
MCV-90 MCH-30.7 MCHC-34.1 RDW-13.1 RDWSD-43.0 Plt ___
___ 08:55PM BLOOD Hct-28.3*
___ 04:45PM BLOOD WBC-8.1 RBC-3.62* Hgb-11.3* Hct-32.5* 
MCV-90 MCH-31.2 MCHC-34.8 RDW-13.3 RDWSD-43.8 Plt ___
___ 07:00AM BLOOD WBC-13.0*# RBC-3.55* Hgb-10.9* Hct-31.9* 
MCV-90 MCH-30.7 MCHC-34.2 RDW-13.1 RDWSD-43.3 Plt ___
___ 04:37PM BLOOD Hct-30.9*
___ 07:09AM BLOOD Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:50AM BLOOD Plt ___
___ 01:29AM BLOOD Plt Smr-LOW Plt ___
___ 01:29AM BLOOD ___ PTT-34.7 ___
___ 04:45PM BLOOD Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:09AM BLOOD Glucose-137* UreaN-3* Creat-0.9 Na-143 
K-3.5 Cl-103 HCO3-32 AnGap-12
___ 06:40AM BLOOD Glucose-119* UreaN-6 Creat-0.9 Na-142 
K-3.3 Cl-99 HCO3-31 AnGap-15
___ 06:40AM BLOOD Glucose-119* UreaN-6 Creat-0.9 Na-142 
K-3.3 Cl-99 HCO3-31 AnGap-15
___ 06:40AM BLOOD Glucose-115* UreaN-8 Creat-0.8 Na-141 
K-3.4 Cl-99 HCO3-33* AnGap-12
___ 06:40AM BLOOD Glucose-115* UreaN-8 Creat-0.8 Na-141 
K-3.4 Cl-99 HCO3-33* AnGap-12
___ 06:50AM BLOOD Glucose-133* UreaN-12 Creat-0.8 Na-142 
K-3.7 Cl-99 HCO3-35* AnGap-12
___ 01:29AM BLOOD Glucose-133* UreaN-14 Creat-0.9 Na-140 
K-3.5 Cl-103 HCO3-30 AnGap-11
___ 08:55PM BLOOD K-3.1*
___ 05:33PM BLOOD Glucose-151* UreaN-16 Creat-0.9 Na-141 
K-3.2* Cl-102 HCO3-28 AnGap-14
___ 07:00AM BLOOD Glucose-155* UreaN-18 Creat-1.1 Na-139 
K-3.7 Cl-106 HCO3-24 AnGap-13
___ 04:37PM BLOOD K-3.2*
___ 07:09AM BLOOD Calcium-8.1* Phos-3.6 Mg-2.0
___ 06:40AM BLOOD Calcium-8.1* Phos-3.3 Mg-2.0
___ 06:40AM BLOOD Calcium-7.8* Phos-3.3 Mg-2.2
___ 06:50AM BLOOD Calcium-7.7* Phos-2.3* Mg-2.6
___ 01:29AM BLOOD Calcium-7.5* Phos-2.4* Mg-1.8
___ 08:55PM BLOOD Mg-1.9
___ 05:33PM BLOOD Calcium-8.1* Phos-1.3* Mg-2.1
___ 07:00AM BLOOD Calcium-7.9* Phos-3.9 Mg-2.9*
___ 04:37PM BLOOD Mg-1.6
___ 06:40AM BLOOD Vanco-20.5*
___ 06:40AM BLOOD Vanco-20.1*
___ 12:30AM BLOOD Vanco-15.6

 CHEST (PA & LAT) Study Date of ___ 9:15 AM 
There are small effusions seen posteriorly, together with 
minimal blunting of both costophrenic angles.  Patchy opacity is 
seen in the right cardiophrenic and left retrocardiac region, 
but is improved compared with ___ upper zone 
redistribution, but no overt CHF.  No new focal infiltrate 
identified. 
  
NG tube tip extends beneath the diaphragm and overlies the upper 
stomach. 
  

 
Brief Hospital Course:
Mr. ___ was admitted to the inpatient Colorectal Surgery 
Serivce post-operatively/ His post-operative check was stable. 
He was given intravenous fluids for hydration.  On his diet was 
sips of fluids only given his extensive lysis of adhesions and  
two anastomoses. We continued intravenous hydration. On the 
morning os post-operative day one he was doing quite well. He 
tolerated a small amount of clear liquids. He was noted to be 
tremulous with ambulation. All vital signs were stable and he 
had no other symptoms. He reported he had previously had similar 
symptoms when given narcotic pain medication after joint 
replacement surgery. This was improved at rest. Reglan was 
discontinued as a precaution. The Foley catheter was removed at 
midline and he voided without issue. The following day, he was 
doing well in the morning however, in the late morning he 
reported having nausea and had one episode of emesis. 
Intravenous hydration was continued and he was NPO. He passed 
flatus. In the afternoon he was noted to be febrile to 101 and 
he reported feeling week. OK dressing was taken down and the 
incision was intact. He was rigorous. He moved his bowels, his 
stool was black. EKG showed sinus tachycardia, cardiac enzymes 
were sent as a precaution and were negative. His urinalysis was 
negative.  He had acute onset of abdominal pain and was feeling 
unwell. He was evaluated by the chief resident and surgical 
attending. Broad spectrum antibiotic therapy was started out of 
concern for a leak. No leak or small bowel injury was found in 
the operating room. Howervern he did have very distended loops 
of small ___ and a nasogastric tube was left in place. A JP 
drain was left in place. Postoperatively the patient had a fever 
to 102.5, repeat chest film showed NG tube tip as in the stomach 
and interval increase in perihilar and basal opacities, 
concerning for interval 
aspiration or potentially increase in pleural effusion.  
Pneumonia was seen as unlikely. Over the next few days, he began 
to improve. The nasogastric tube was removed and the antibiotic 
therapy was transitioned to oral antibiotics. He was then 
tolerating a regular diet. He was discharged home on ___.

 
Medications on Admission:
azathioprine 50mg QID 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Moderate 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*55 Tablet Refills:*0 
2.  Amoxicillin 500 mg PO Q8H 
please take until ___ 
RX *amoxicillin 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*11 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Adhesive disease and Crohn's ileitis.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a Extensive lysis of 
adhesions and ileocolectomy for surgical management of your 
Crohns Disease. Unfortunately after surgery you became acutely 
sick and you were taking to the operating room again for an 
exploratory laparotomy to be sure nothing was leaking from the 
surgery however this was negative. You have recovered from this 
procedure well and you are now ready to return home. Samples 
from your bowel were taken and this tissue has been sent to the 
pathology department for analysis. You will receive these 
pathology results at your follow-up appointment. If there is an 
urgent need for the surgeon to contact you regarding these 
results they will contact you before this time. You have 
tolerated a regular diet, passing gas and your pain is 
controlled with pain medications by mouth. You may return home 
to finish your recovery. You will need to continue to take the 
antibiotic Amoxicillin  until ___. This is treating a 
pneumonia. 
 
Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to your discharge which is 
acceptable, however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patient’s to have some decrease in bowel function 
but you should not have prolonged constipation. Some loose stool 
and passing of small amounts of dark, old appearing blood are 
expected. However, if you notice that you are passing bright red 
blood with bowel movements or having loose stool without 
improvement please call the office or go to the emergency room 
if the symptoms are severe. If you are taking narcotic pain 
medications there is a risk that you will have some 
constipation. Please take an over the counter stool softener 
such as Colace, and if the symptoms do not improve call the 
office. If you have any of the following symptoms please call 
the office for advice or go to the emergency room if severe: 
increasing abdominal distension, increasing abdominal pain, 
nausea, vomiting, inability to tolerate food or liquids, 
prolonged loose stool, or extended constipation.  
 
You have a long vertical incision on your abdomen that is closed 
with staples and a VAC suction dressing. The staples will stay 
in place until your first post-operative visit at which time 
they can be removed in the clinic, most likely by the office 
nurse. THe VAC dressing should be removed every three days. The 
VAC dressing should always be to suction. If the VAC machiene is 
alarming please call the visiting nurses and our office. Please 
monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. Please call the office if you develop these symptoms or 
go to the emergency room if the symptoms are severe. You may 
shower, let the warm water run over the incision line and pat 
the area dry with a towel, do not rub. The visiting nurses ___ 
change the VAC dressing.   
 
No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by your surgical team. You may gradually 
increase your activity as tolerated but clear heavy exercise 
with your surgical team.  
 
You may take Tylenol as recommended for pain. Please do not take 
more than 4000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck!  

 
Followup Instructions:
___